US07220856B2
Preparation of (3R)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-N-methyl-2-oxo-1H-azepine-1-carboxamide
As described for example 213, [(3R)-hexahydro-1-[(methylamino)carbonyl]-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester, TFA, K2CO3 (sat.) 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product. 1H NMR (DMSO-d6): δ 1.2 (m, 1H), 1.6 (m, 1H), 1.71 (m, 2H), 1.84 (m, 2H), 2.73 (s, 3H), 2.98 (m, 4H), 3.31 (m, 2H), 3.58 (m, 4H), 4.57 (m, 1H), 4.64 (t, 1H), 6.22 (s, 1H), 6.45 (br. s, 1H), 6.78 (d, 1H), 7.11 (d, 1H), 7.37 (s, 1H), 7.76 (d, 1H), 8.84 (m, 1H).

reactant | [(3R)-hexahydro-1-[(methylamino)carbonyl]-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(N[C@H]1C(N(CCCC1)C(=O)NC)=O)=O | C13H23N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | (3R)-3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]hexahydro-N-methyl-2-oxo-1H-azepine-1-carboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@H]1C(N(CCCC1)C(=O)NC)=O)Cl | C22H28ClN7O3
